US05804569
A mixture of 2-iso-propylphenol (10.0 g, 73.4 mmol) in trichloroethylene (600 mL) is added dropwise to a 0°-4° C. mixture of thiophosphoryl chloride (18.63 g, 110 mmol) and anhydrous pyridine (8.70 g, 110 mmol) in trichloroethylene (250 mL) over a 1 hour period under a nitrogen atmosphere. The resultant reaction mixture is stirred at 0°-4° C. for 2 hours, is warmed to room temperature and then is stirred at room temperature for 12 hours. A white solid gradually precipitates. The white solid is filtered from the reaction mixture. The resultant reaction mixture is concentrated in vacuo to a residue. Successive aliquots of toluene (200 mL) are added to the residue and then separately evaporated in vacuo to give (2-iso-propylphenyl)-thiophosphoryl dichloride which can be used directly without further purification as the starting material for Example 27.

reactant | 2-iso-propylphenol | 73.4 mmol, 10.0 g | C(C)(C)C1=C(C=CC=C1)O | C9H12O
reactant | thiophosphoryl chloride | 110 mmol, 18.63 g | P(=S)(Cl)(Cl)Cl | Cl3PS
reactant | pyridine | 110 mmol, 8.70 g | N1=CC=CC=C1 | C5H5N
solvent | trichloroethylene | 600 mL | ClC=C(Cl)Cl | C2HCl3
solvent | trichloroethylene | 250 mL | ClC=C(Cl)Cl | C2HCl3
product | (2-iso-propylphenyl)-thiophosphoryl dichloride | C(C)(C)C1=C(C=CC=C1)P(=S)(Cl)Cl | C9H11Cl2PS
